US05932590
Preparation of 2-(t-Butyloxycarbonyl)-7-methoxy-1,2,3,4-tetrahydroisoquinoline-3(S)-carboxylic acid
To a solution of Methyl 2-(t-butyloxycarbonyl)-7-methoxy-1,2,3,4-tetrahydroisoquinoline-3(S)-carboxylate (0.58 g, 1.81 mmol) in MeOH:H2O 1:1 (20 mL) was added 1 N NaOH (2.7 mL, 2.72 mmol) and the resulting solution was stirred at 25° C. for 18 hr. The methanol was evaporated in vacuo and the remaining aqueous portion was acidified to pH=3 with 1 N HCl and then extracted two times with EtOAc. The organic layers were washed with saturated NaCl (30 mL) and dried (MgSO4). Filtration and evaporation in vacuo gave the title compound.

reactant | Methyl 2-(t-butyloxycarbonyl)-7-methoxy-1,2,3,4-tetrahydroisoquinoline-3(S)-carboxylate | 1.81 mmol, 0.58 g | C(C)(C)(C)OC(=O)N1CC2=CC(=CC=C2C[C@H]1C(=O)OC)OC | C17H23NO5
reactant | NaOH | 2.72 mmol, 1 N, 2.7 mL | [OH-].[Na+]
solvent | MeOH H2O | 20 mL | CO.O
product | 2-(t-Butyloxycarbonyl)-7-methoxy-1,2,3,4-tetrahydroisoquinoline-3(S)-carboxylic acid | C(C)(C)(C)OC(=O)N1CC2=CC(=CC=C2C[C@H]1C(=O)O)OC | C16H21NO5
